US06670364B2
Sodium 2-[4-({[(1,3-Dimethypyrazolo[5,4-b]pyridin-5-yl)carbonylamino]-carbonyl}amino)-2-(trifluoromethyl)phenoxy]acetate (35)
A solution of ethyl 2-[4-({[(1,3-dimethypyrazolo[5,4-b]pyridin-5-yl)carbonyl-amino]carbonyl}amino)-2-(trifluoromethyl)phenoxy]acetate (0.11 g) in DMF (3 mL) was treated with 5N sodium hydroxide solution (1.6 mL). The mixture was stirred at room temperature for 1.25 h, and then concentrated under reduced pressure. The residue was taken up in water (4 mL), filtered, and the filtrate was cooled in an ice-bath and acidified to pH 4 with concentrated hydrochloric acid. The precipitated solid was collected by filtration, washed with water, and dried under high vacuum. A portion of this material was suspended in water (5 mL) and treated with 5N sodium hydroxide solution (27 μL). The mixture was sonicated, filtered, and the filtrate lyophilized to yield the title compound. 1H NMR (DMSO-d6) δ 2.53 (s, 3H), 3.99 (s, 3H), 4.17 (s, 2H), 6.85 (d, J=8.8 Hz, 1H), 7.44-7.47 (br d, J=8.8 Hz, 1H), 8.03 (d, J=2.1 Hz, 1H), 8.52 (s, 1H) 8.79 (d, J=1.6 Hz, 1H), 9.23 (d, J=1.6 Hz, 1H), 11.50 (br s, 1H). MS (ESI) m/z 450.

reactant | ethyl 2-[4-({[(1,3-dimethypyrazolo[5,4-b]pyridin-5-yl)carbonyl-amino]carbonyl}amino)-2-(trifluoromethyl)phenoxy]acetate | 0.11 g | CN1N=C(C=2C1=NC=C(C2)C(=O)NC(=O)NC2=CC(=C(OCC(=O)OCC)C=C2)C(F)(F)F)C | C21H20F3N5O5
reactant | sodium hydroxide | 5N, 1.6 mL | [OH-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Sodium 2-[4-({[(1,3-Dimethypyrazolo[5,4-b]pyridin-5-yl)carbonylamino]-carbonyl}amino)-2-(trifluoromethyl)phenoxy]acetate | CN1N=C(C=2C1=NC=C(C2)C(=O)NC(=O)NC2=CC(=C(OCC(=O)[O-])C=C2)C(F)(F)F)C.[Na+] | InChI=1S/C19H16F3N5O5.Na/c1-9-12-5-10(7-23-16(12)27(2)26-9)17(30)25-18(31)24-11-3-4-14(32-8-15(28)29)13(6-11)19(20,21)22;/h3-7H,8H2,1-2H3,(H,28,29)(H2,24,25,30,31);/q;+1/p-1
